US06921763B2
A suspension of N2-{4-[4-amino-1-(2-chloro-4-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide (0.120 g, 0.00023 mol) and morpholine (10 mL) was heated at 100° C. for 6 days. The solvent was removed in vacuo and the residue was slurried in water (25 mL) for 4 hours. The mixture was filtered and the crude solid was purified by preparative RP-HPLC (Rainin C18, 8 mm, 300 A, 25 cm; 35%-80% acetonitrile-0.050 M ammonium acetate over 20 min, 21 ml/min). The acetonitrile was removed in vacuo and the aqueous mixture was lyopholyzed to give N2-{4-[4-amino-1-(2-morpholino-4-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide (0.048 g, 0.00008 mol) as a white solid.

reactant | N2-{4-[4-amino-1-(2-chloro-4-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide | 0.00023 mol, 0.120 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2=CC(=NC=C2)Cl | C27H21ClN8O2
reactant | morpholine | 10 mL | N1CCOCC1 | C4H9NO
product | N2-{4-[4-amino-1-(2-morpholino-4-pyridyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide | 0.00008 mol, 0.048 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2=CC(=NC=C2)N2CCOCC2 | C31H29N9O3
